US04018794
A mixture of 3-amino-4-benzoyl-5-nitrobenzoic acid (57.2 g) and conc. hydrochloric acid (250 ml) is heated on a steam bath for 10 minutes. After cooling, the amine is diazotized by the dropwise addition of a solution of sodium nitrite (16 g) in water (80 ml), while stirring at -5° C to 0° C. After additional stirring at this temperature for 10 minutes, 50% aqueous hydrofluoboric acid (220 ml) is added during about 5 minutes. The mixture is left for 1 hour, keeping the temperature below 0° C by external cooling. The precipitate formed is then collected by filtration and washed with two portions of icecold water (each portion 25 ml). The material is suspended in acetone (200 ml) and stirred for 15 minutes. It is collected by filtration, washed with acetone, followed by diethyl ether and dried to give 2-benzoyl-5-carboxy-3-nitrobenzenediazonium tetrafluoroborate.

reactant | 3-amino-4-benzoyl-5-nitrobenzoic acid | 57.2 g | NC=1C=C(C(=O)O)C=C(C1C(C1=CC=CC=C1)=O)[N+](=O)[O-] | C14H10N2O5
reactant | hydrochloric acid | 250 ml | Cl | ClH
reactant | sodium nitrite | 16 g | N(=O)[O-].[Na+]
reactant | hydrofluoboric acid | 220 ml | [H+].[B-](F)(F)(F)F
solvent | water | 80 ml | O | H2O
product | 2-benzoyl-5-carboxy-3-nitrobenzenediazonium tetrafluoroborate | F[B-](F)(F)F.C(C1=CC=CC=C1)(=O)C1=C(C=C(C=C1[N+](=O)[O-])C(=O)O)[N+]#N | InChI=1S/C14H7N3O5.BF4/c15-16-10-6-9(14(19)20)7-11(17(21)22)12(10)13(18)8-4-2-1-3-5-8;2-1(3,4)5/h1-7H;/q;-1/p+1
